US07169921B2
(a) 3-(4-Cyanoanilino)propyl benzenesulfonate
To the solution of 4-[(3-hydroxypropyl)amino]benzonitrile (see Preparation C above (first steps of both Alternatives); assumed 43.65 g, 247.7 mmol, 1.0 eq) in dichloromethane (360 mL total solution volume) was added, sequentially, triethylamine (52 mL, 37.60 g, 371.55 mmol, 1.5 eq) and trimethylamine hydrochloride (11.89 g, 123.85 mmol, 0.5 eq) in one portion. The yellow solution was cooled to −20° C. (using a cold plate), and treated with a solution of benzenesulfonyl chloride (32 mL, 43.74 g, 247.7 mmol, 1.0 eq) in dichloromethane (220 mL, 5 vols with respect to the cyanoalcohol) via a pressure equalising dropping funnel. The solution was added portionwise such that the internal temperature did not exceed −14° C. The addition took 25 minutes to complete. The mixture was then stirred for 35 minutes at between −15 and −10° C. Water (365 mL) was added and the temperature rose to 10° C. The mixture was cooled back to 0° C. and stirred vigorously for 15 minutes. The organic layer (volume 570 mL) was collected and distilled at atmospheric pressure to remove DCM (450 mL, pot temperature 40–42° C., still-head temperature 38–39° C.). Ethanol (250 mL) was added, and the solution was allowed to cool to below 30° C. before turning on the vacuum. More solvent was removed (40 mL was collected, pressure 5.2 kPa (52 mbar), pot and still-head temperatures were 21–23° C.), and the product gradually came out of solution. The distillation was stopped at this point, and more ethanol (50 mL) was added. The mixture was warmed (hot water bath at 50° C.) to 40° C. to dissolve all the solid, and water (90 mL) was added slowly via a dropping funnel. The solution was stirred slowly at room temperature (20° C.) overnight (15 hours), by which time some product had crystallised out. The mixture was cooled to −5° C. (ice/methanol bath) and stirred at this temperature for 20 minutes before collecting the pale yellow solid by filtration. The solid was washed with an ethanol/water mixture (42 mL EtOH, 8 mL H2O), and suction dried for 30 minutes before drying to constant weight in the vacuum oven (40° C., 72 hours). The mass of crude product obtained was 47.42 g (149.9 mmol, 60%). Ethanol (160 mL, 8 vols) was added to the crude product (20.00 g, 63.22 mmol, 1.0 eq). The mixture was stirred under nitrogen and warmed to 40° C. using a hot water bath. On reaching this temperature, all of the solid had dissolved to give a clear, yellow solution. Water (60 mL, 3 vols) was added dropwise over a period of 10 minutes, whilst the internal temperature was maintained in the range 38–41° C. The water bath was removed, and the solution was allowed to cool to 25° C. over 40 minutes, by which time crystallisation had begun. The mixture was cooled to −5° C. over 10 minutes, then held at this temperature for a further 10 minutes. The pale yellow solid was collected by filtration, suction dried for 10 minutes, then dried to constant weight in a vacuum oven (40° C., 15 hours). The mass of sub-title compound obtained was 18.51 g (58.51 mmol, 93% (from the crude product)).

reactant | 4-[(3-hydroxypropyl)amino]benzonitrile | OCCCNC1=CC=C(C#N)C=C1 | C10H12N2O
reactant | triethylamine | 371.55 mmol, 52 mL, 37.60 g, 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | trimethylamine hydrochloride | 123.85 mmol, 11.89 g, 0.5 eq | Cl.CN(C)C
reactant | benzenesulfonyl chloride | 247.7 mmol, 32 mL, 43.74 g, 1.0 eq | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | cyanoalcohol | C(#N)O | CHNO
solvent | dichloromethane | 360 mL | ClCCl | CH2Cl2
solvent | Water | 60 mL | O | H2O
solvent | Ethanol | 160 mL | C(C)O | C2H6O
solvent | Water | 365 mL | O | H2O
product | 3-(4-Cyanoanilino)propyl benzenesulfonate | C1(=CC=CC=C1)S(=O)(=O)OCCCNC1=CC=C(C=C1)C#N | C16H16N2O3S
